US04613609
4-(Methanesulfonylamino)benzenebutanol methanesulfonate (Ester)
9.25 g (0.056 mole) 4-aminobenzenebutanol is dissolved in 100 ml pyridine and the solution is cooled to ca. -10° C. 17.33 ml (25.65 g) (0.244 mole) methanesulfonyl chloride is added dropwise with vigorous stirring at a rate such that the reaction temperature does not rise beyond -5° C. After all methanesulfonyl chloride is added, the reaction mixture is left in the freezer for two days. The reaction mixture is poured onto 300 ml ice water and extracted with 3×200 ml methylene chloride. The combined organic layers are washed with 1 liter cold 5% HCl in 3 portions. The organic layer is dried over sodium sulfate, filtered, and stripped. The residue is crystallized from ethyl acetate/ether to obtain the title compound.

reactant | 4-aminobenzenebutanol | 0.056 mole, 9.25 g | NC1=CC=C(C=C1)CCCCO | C10H15NO
reactant | methanesulfonyl chloride | 0.244 mole, 17.33 ml, 25.65 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-(Methanesulfonylamino)benzenebutanol methanesulfonate | CS(=O)(=O)OCCCCC1=CC=C(C=C1)NS(=O)(=O)C | C12H19NO5S2
